US05693639
3,3,3-Trifluoro-2-hydroxy-2-methyl-N-[4-(N-phenyl-N-methylaminosulfonyl)phenyl]propanamide.
To a cooled (-20° C.) solution of α-trifluoromethyl lactic acid 0.20 g in dry N,N-dimethylacetamide (4 ml) was added thionyl chloride (0.16 g). The reaction mixture was stirred for 1 hour, then warmed to 0° C. over 30 minutes and treated with 4-(N-phenyl-N-methylaminosulfonyl)aniline (0.34 g). After stirring at 22° C. for 24 hours, the reaction mixture was diluted with water (30 ml) and extracted with ethyl acetate (2×20 ml). The combined ethyl acetate extracts were washed with brine, dried (Na2SO4) and concentrated at reduced pressure to give an oil which was purified by chromatography (1:1 hexane: ethyl aceate) and recrystallised from methyl-t-butyl ether/hexane to produce the title compound as a colourless solid (0.31 g); mp 147°-149° C.; MS: m/z=403(M+1); NMR (250 MHz): 1.55 (s,3), 3.09 (s,3), 7.05-7.08 (m, 2), 7.28-7.43 (m,5), 7.53 (s,1), 7.91-7.95 (m,2), 10.36 (broad s, 1). Analysis for C17H17F3N2O4S: Calculated: C, 50.78; H, 4.26; N, 6.97; Found: C, 50.80; H, 4.37; N, 6.93.

reactant | α-trifluoromethyl lactic acid | 0.20 g | FC(C(C(=O)O)(O)C)(F)F | C4H5F3O3
reactant | thionyl chloride | 0.16 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(N-phenyl-N-methylaminosulfonyl)aniline | 0.34 g | C1(=CC=CC=C1)N(S(=O)(=O)C1=CC=C(N)C=C1)C | C13H14N2O2S
solvent | N,N-dimethylacetamide | 4 ml | CN(C(C)=O)C | C4H9NO
solvent | water | 30 ml | O | H2O
product | 3,3,3-Trifluoro-2-hydroxy-2-methyl-N-[4-(N-phenyl-N-methylaminosulfonyl)phenyl]propanamide | 0.31 g | FC(C(C(=O)NC1=CC=C(C=C1)S(=O)(=O)N(C)C1=CC=CC=C1)(C)O)(F)F | C17H17F3N2O4S
